US07495006B2
3-(tert-Butyl-diphenyl-siloxyethyl)-cyclobutanone
Zinc dust (15.7 g, 0.24 mol) was added to a solution of 3-(tert-butyl -diphenyl-siloxyethyl) -2,2-dichlorocyclobutanone (17 g, 0.04 mol) in glacial acetic acid (68 mL) at room temperature. The reactants were heated at 60° C. for 1 hr, after which time dry diethyl ether was added to the cooled products, which were then filtered. The residue was washed with diethyl ether and the combined filtrate and washings were concentrated under reduced pressure. The residue was dissolved in CH2Cl2, which was washed with saturated NaHCO3 twice and water once. The organic phase was dried over MgSO4 and the solvent was evaporated to give an oily product, which was purified by silica gel flash chromatography (Hexane: EtOAc=12:1) to give a colorless oil (6.2 g, 43.7%). 1H NMR (CDCl 3, 400 MHz): δ 1.06 (s, 9H), 1.82-1.87 (m, 2H), 2.48-2.60 (m, 1H), 2.65-2.71 (m, 2H), 3.07-3.14 (m, 2H), 3.69-3.73 (t, J=6.0, 6.4, 2H), 7.37-7.46 (m, 6H), 7.65-7.73 (m, 4H). 13C NMR (CDCl3, 100 MHz): δ 19.37, 26.76, 27.06, 39.02, 52.87, 62.87, 127.91, 129.88, 129.92, 133.86, 208.89. IR (neat) νmax 2957, 2930, 2857, 1784, 1472, 1428, 1388, 1112, 822, 739, 702.

reactant | 3-(tert-butyl -diphenyl-siloxyethyl) -2,2-dichlorocyclobutanone | 0.04 mol, 17 g | C(C)(C)(C)C(C(O[SiH3])(C1=CC=CC=C1)C1=CC=CC=C1)C1C(C(C1)=O)(Cl)Cl | C22H26Cl2O2Si
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | acetic acid | 68 mL | C(C)(=O)O | C2H4O2
catalyst | Zinc | 0.24 mol, 15.7 g | [Zn] | Zn
product | 3-(tert-Butyl-diphenyl-siloxyethyl)-cyclobutanone | 6.2 g, 43.7% | C(C)(C)(C)C(C(O[SiH3])(C1=CC=CC=C1)C1=CC=CC=C1)C1CC(C1)=O | C22H28O2Si
